US06384234B1
Preparation of N-(5-Amino-2-chloro-4-fluorophenyl)-1-chloromethanesulfonamide
A mixture of N-(3-amino-4-fluorophenyl)-1-chloromethanesulfonamide (4.42 g, 18.5 mmol), N-chlorosuccinimide (2.47 g) in 50 mL of anhydrous dimethylformamide was heated to 50° C. for 1.5 hours. The reaction mixture was diluted with 200 mL of ethyl acetate and washed with water (twice with 50 mL). The organic phase was separated, dried (MgSO4), and concentrated under reduced pressure to yield 4.15 g (82%) of the title compound. Purification by flash chromatography provided a solid melting at 107-108° C.

reactant | N-(3-amino-4-fluorophenyl)-1-chloromethanesulfonamide | 18.5 mmol, 4.42 g | NC=1C=C(C=CC1F)NS(=O)(=O)CCl | C7H8ClFN2O2S
reactant | N-chlorosuccinimide | 2.47 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | N-(5-Amino-2-chloro-4-fluorophenyl)-1-chloromethanesulfonamide | 4.15 g, 82% | NC=1C(=CC(=C(C1)NS(=O)(=O)CCl)Cl)F | C7H7Cl2FN2O2S
